* Z:\z\--mega--\converter-designs\bla\bla.asc
L1 i+ p+ {Zo/2/pi/fo} Rser={RLs}
C1 i- p- {1/Zo/2/pi/fo} Rpar=1meg
Dr1 o+ N001 D
Dr3 0 o- D
Dr2 o- N001 D
Dr4 0 o+ D
Vout N001 0 {Vout}
Rs2 i- s3 {Rshort}
Rs1 s1 i+ {Rshort}
C2 o+ o- 100p Rser=10 Rpar=1meg
M1 in g1 s1 s1 SPA11N60C3
Vg1 drv1 s1 PULSE({Vgn} {Vgp} {0.0/fs} 1n 1n {0.5/fs-dt} {1/fs})
Rg1 g1 drv1 {Rg}
Rg2 g2 drv2 {Rg}
Vin in 0 {Vin}
Cin in 0 1u
M2 s1 g2 s2 s2 SPA11N60C3
Rpd1 g1 s1 10k
Rpd2 g2 s2 10k
M3 in g3 s3 s3 SPA11N60C3
Rg3 g3 drv3 {Rg}
Rg4 g4 drv4 {Rg}
M4 s3 g4 s4 s4 SPA11N60C3
Rpd3 g3 s3 10k
Rpd4 g4 s4 10k
Rs3 0 s2 {Rshort}
Rs4 0 s4 {Rshort}
Dg1 g1 N002 D
Dg3 g3 N004 D
Dg2 g2 N003 D
Dg4 g4 N005 D
Rgoff1 N002 drv1 {Rgoff}
Rgoff2 N003 drv2 {Rgoff}
Rgoff3 N004 drv3 {Rgoff}
Rgoff4 N005 drv4 {Rgoff}
Vg2 drv2 s2 PULSE({Vgn} {Vgp} {0.5/fs} 1n 1n {0.5/fs-dt} {1/fs})
Vg3 drv3 s3 PULSE({Vgn} {Vgp} {0.5/fs} 1n 1n {0.5/fs-dt} {1/fs})
Vg4 drv4 s4 PULSE({Vgn} {Vgp} {0.0/fs} 1n 1n {0.5/fs-dt} {1/fs})
Ltx1 p- p+ {Ltx1}
Ltx2 o- o+ {Ltx2}
.model D D
.lib C:\users\alucard\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\alucard\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 {40.2u+2/fs} 40.2u 100n uic
.include bla.txt
k Ltx1 Ltx2 1
.backanno
.end
